Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Asymptomatic
 
Major Surgical or Invasive Procedure:
Mitral Valve Repair (38mm ring) ___

 
History of Present Illness:
Mr. ___ is a ___ male with no significant past medical
history who was found to have a heart murmur on his annual
physical exam. An echocardiogram demonstrated severe MR with
preserved biventricular function. He denies any dyspnea on
exertion, fatigue, palpitations, orthopnea or syncopal episodes.
As early intervention can increase the odds of a repair, he has
been referred for surgical evaluation.  

 
Past Medical History:
Mitral Regurgitation
hypospadias repair x 2

 
Social History:
___
Family History:
Father with hypertension and grandmother with
mitral valve replacement approximately ___ years ago
 
Physical Exam:
Pulse: 111 Resp: 16   O2 sat:  100%RA
B/P  Right: 137/89    Left: 142/89 
Height:     Weight:

General: NAD, WGWN
Skin: Warm [x] Dry [x] Intact [x]
HEENT: NCAT [x] PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x] JVD []
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular [x]  Murmur [x] Grade _4/6 syst.
+thrill_ 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+
[x]
Extremities: Warm [x], well-perfused [x]  Edema [] __none_
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2+  Left:2+
DP           Right: 2+  Left:2+
___           Right: 2+  Left:2+
Radial       Right: 2+  Left:2+

Carotid Bruit -     Right:    Left:
no bruits, radiation of cardiac murmur

 
Pertinent Results:
Intra-op TEE ___
Conclusions  
PRE-CPB:
The left atrium is markedly dilated. No atrial septal defect is 
seen by 2D or color Doppler. 

Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. 

No thoracic aortic dissection is seen. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion. 

The mitral valve leaflets are mildly thickened and redundant. 
Atrialization of the posterior leaflet insertion is seen. There 
is prolapse of all three scallops of the posterior mitral 
leaflets with the p2 scallop being most significantly affected. 
The mitral valve leaflets do not fully coapt. There is both a 
central and eccentric, anteriorly directed jet of MR. ___ 
to severe (3+) mitral regurgitation is seen. Due to the 
eccentric nature of the regurgitant jet, its severity may be 
significantly underestimated (Coanda effect). 

Dr ___ was notifed of findings in person at time of study. 

POST-CPB:
The anterior mitral leaflet now spans the entire mitral annulus 
and the posterior leaflet can be minimally seen, consistent with 
mitral valve repair. A mitral annular ring is seen. There is no 
residual MR.

___ systolic function remain preserved. Other valvular 
function remains unchanged.

There is no evidence of dissection.   
.

___ 06:20AM BLOOD WBC-8.7 RBC-3.45* Hgb-10.0* Hct-29.3* 
MCV-85 MCH-28.9 MCHC-34.0 RDW-12.9 Plt ___
___ 05:55AM BLOOD WBC-11.3* RBC-3.42* Hgb-10.0* Hct-28.9* 
MCV-85 MCH-29.1 MCHC-34.5 RDW-12.5 Plt ___
___ 06:20AM BLOOD ___ PTT-28.4 ___
___ 06:20AM BLOOD Glucose-116* UreaN-17 Creat-1.1 Na-140 
K-4.2 Cl-98 HCO3-34* AnGap-12
___ 05:55AM BLOOD Glucose-101* UreaN-14 Creat-1.0 Na-140 
K-4.5 Cl-99 HCO3-31 AnGap-15
 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent Mitral Valve Repair with Dr. ___.  
Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable, weaned from inotropic and 
vasopressor support.  Beta blocker was initiated and the patient 
was gently diuresed toward the preoperative weight.  The patient 
was transferred to the telemetry floor for further recovery.  
Chest tubes and pacing wires were discontinued without 
complication.  He developed some abdominal distention and bowel 
regimen was increased.  He had a bowel movement.  The patient 
was evaluated by the physical therapy service for assistance 
with strength and mobility.  By the time of discharge on POD 4 
the patient was ambulating freely, the wound was healing and 
pain was controlled with oral analgesics.  The patient was 
discharged home w ___ in good condition with appropriate follow 
up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain/fever 
2. Aspirin EC 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
3. Furosemide 20 mg PO DAILY Duration: 5 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*5 Tablet 
Refills:*0
4. Ibuprofen 600 mg PO Q8H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*0
5. Lorazepam 0.25 mg PO Q6H:PRN anxiety 
RX *lorazepam 0.5 mg 0.5 (One half) tab by mouth every six (6) 
hours Disp #*20 Tablet Refills:*0
6. Metoprolol Tartrate 50 mg PO BID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
7. Potassium Chloride 20 mEq PO DAILY Duration: 5 Days 
RX *potassium chloride [___-Con] 20 mEq 1 packet by mouth daily 
Disp #*5 Packet Refills:*0
8. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Mitral Regurgitation
hypospadias repair x 2

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema- trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___